US09340549B2
A resealable tube was charged with a mixture of (S)-3-((R)-4-(2-fluoro-5-(pyrimidin-2-yl)pyridin-3-yl)cyclohex-3-en-1-yl)-5,5-dimethyl-4-phenyloxazolidin-2-one and (S)-3-((S)-4-(2-fluoro-5-(pyrimidin-2-yl)pyridin-3-yl)cyclohex-3-en-1-yl)-5,5-dimethyl-4-phenyloxazolidin-2-one (0.090 g, 0.202 mmol), dioxane (3.0 mL), and water (1.0 mL). Concentrated HCl (37%) (0.25 mL) was added, the system was flushed with argon, the tube was sealed, and the reaction mixture was stirred at 100° C. for 2 hours. The reaction mixture was partitioned between EtOAc and saturated aqueous NaHCO3 solution. The aqueous phase was washed and extracted with EtOAc. The combined organic phases were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated to afford an off-white solid. This material was purified via SFC separation (Chiralpak AD-H column (2×15 cm), eluting with 25% MeOH (0.2% DEA)/CO2, 100 bar, 70 mL/min, 220 nM. Injection volume 0.5 mL, 9 mg/mL MeOH) to afford (S)-5,5-dimethyl-3-((S)-4-(2-oxo-5-(pyrimidin-2-yl)-1,2-dihydropyridin-3-yl)cyclohex-3-en-1-yl)-4-phenyloxazolidin-2-one (0.026 g, 0.059 mmol, 29% yield) as a white solid (first eluting peak, structure arbitrarily assigned). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.82 (s, 3H), 1.50 (s, 3H), 1.86-2.23 (m, 4H), 2.27-2.48 (m, 1H), 2.54-2.70 (m, 1H), 3.56-3.84 (m, 1H), 4.51-4.89 (m, 1H), 6.35 (br. s., 1H), 7.14-7.62 (m, 6H), 8.05-8.36 (m, 2H), 8.67-8.90 (m, 2H), 11.96 (br. s., 1H). m/z (ESI) 443 (M+H)+.

reactant | (S)-3-((R)-4-(2-fluoro-5-(pyrimidin-2-yl)pyridin-3-yl)cyclohex-3-en-1-yl)-5,5-dimethyl-4-phenyloxazolidin-2-one | FC1=NC=C(C=C1C1=CC[C@@H](CC1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O)C1=NC=CC=N1 | C26H25FN4O2
reactant | (S)-3-((S)-4-(2-fluoro-5-(pyrimidin-2-yl)pyridin-3-yl)cyclohex-3-en-1-yl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 0.202 mmol, 0.090 g | FC1=NC=C(C=C1C1=CC[C@H](CC1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O)C1=NC=CC=N1 | C26H25FN4O2
reactant | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
reactant | HCl | 0.25 mL | Cl | ClH
solvent | water | 1.0 mL | O | H2O
product | (S)-5,5-dimethyl-3-((S)-4-(2-oxo-5-(pyrimidin-2-yl)-1,2-dihydropyridin-3-yl)cyclohex-3-en-1-yl)-4-phenyloxazolidin-2-one | 0.059 mmol, 0.026 g, 29% yield | CC1([C@@H](N(C(O1)=O)[C@@H]1CC=C(CC1)C=1C(NC=C(C1)C1=NC=CC=N1)=O)C1=CC=CC=C1)C | C26H26N4O3
